Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
Sigmoidoscopy ___ - four hemoclips placed to rectal ulcer 
(polyp biopsy site)

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with history of head and 
neck cancer s/p chemo and radiation, palpitations and colonic 
polyp presenting with bright red blood per rectum and syncope.  
 Patient was found to have submucosal lesion in rectum 
colonoscopy with Dr. ___ was referred to ___, Dr. 
___. Patient underwent lower EUS ___ at which time was 
found to have  
 single sessile 3mm polyp in rectum, polypectomy performed, 12mm 
nodule yellowish nodule found in rectum with successful EMR 
endoscopic mucosal resection. Patient advised to follow clear 
liquid diet and advance as tolerated, advised of 10% risk of 
post procedural bleeding.  
 This morning when patient woke up he had sensation of having to 
move his bowels, went to the bathroom and noted bright red blood 
per rectum, he subsequently went to the bathroom every ___ hour 
with sensation of having to move bowels and BRBPR, approximately 
12 episodes. He did not have any abdominal pain, chest pain, 
palpitations, lightheadedness, dizziness. Given these symptoms 
he called GI and was advised to present to ED. While in ___ ED 
waiting room had episode of BRBPR in bathroom, went back to his 
chair and had a syncopal episode. Prior to syncope he felt 
lightheaded and whoozy "like after you give blood". No chest 
pain, palpitations. He he was witnessed to slump to floor 
without headstrike or loss of consciousness. Wife who was with 
patient in ED waiting room noted he appeared more pale than 
prior.  
 In the ED, initial vitals were:  
 96.2 95 169/93 18 100% RA  
 Labs notable for h/h ___ (normal) with no previous on file.  
 No imaging was performed.  
 Patient had 2 large bore IV placed and did not receive any 
medications.  
 GI was consulted. They plan for flexible sigmoidoscopy 
tomorrow. They note that the polyp which was removed was very 
close to the anal verge and that it is highly unlikely that he 
would have significant bleed loss from that mechanism.  
 Decision was made to admit for GI bleed  
 Vitals on transfer:  
 65 102/53 23 96% RA  
 On the floor, patient reports feeling better. No further 
lightheadedness, dizziness. He has never had syncopal episodes 
previously. He is also nervous he won't be able to sleep in the 
hospital and would like something to sleep.  
 
Past Medical History:
 Palpitations  
 Colon polyp  

 
Social History:
___
Family History:
 Significant for a father w/MI at age ___.  
 Alcoholism on his father and his brother. ___ in his  
 mother and his brother.  
 
Physical Exam:
Admission Physical Exam:
=====================
 VS: ___ 98.0 153 / 83 67 20 99 ra  
 Gen: well appearing gentleman in NAD  
 HEENT: PERRL, dry mucous membranes, rhinophyma  
 CV: RRR, S1, S2 without M/R/G  
 Pulm: CTAB, no crackles, wheezes, rhonchi  
 Abd: obese, soft, non distended, non tender +BS  
 GU: no CVA tenderness, no foley  
 Ext: warm, well perfused, no edema  
 Skin: warm, well perfused, facial erythema with rhinophyma  
 Neuro: axox3, CNII-XII intact, moving all extremities without 
deficit  
 

Discharge Physical Exam:
=====================
98.2 134 / 72 62 18 99 RA 
Gen: well appearing, resting in bed in no acute distress, alert 
and oriented
Resp: LCAB
Cardiac: RRR, S1, S2
Abd: soft, non-tender, normoactive BS
Ext: warm, well perfused, non-edematous
 
Pertinent Results:
Admission Labs:
===============
___ 05:11PM BLOOD WBC-13.0* RBC-4.85 Hgb-14.0 Hct-41.6 
MCV-86 MCH-28.9 MCHC-33.7 RDW-13.5 RDWSD-42.4 Plt ___
___ 05:11PM BLOOD Plt ___
___ 05:11PM BLOOD Glucose-128* UreaN-15 Creat-1.2 Na-136 
K-4.7 Cl-101 HCO3-18* AnGap-22*
___ 05:11PM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:24AM BLOOD Calcium-7.8* Phos-2.8 Mg-2.0

Discharge Labs:
===============
___ 07:21AM BLOOD WBC-10.0 RBC-3.92* Hgb-11.3* Hct-34.1* 
MCV-87 MCH-28.8 MCHC-33.1 RDW-13.9 RDWSD-43.8 Plt ___
___ 05:24AM BLOOD Glucose-109* UreaN-13 Creat-0.8 Na-138 
K-4.0 Cl-103 HCO3-23 AnGap-16

Studies:
================
Sigmoidoscopy ___
A cratered ulcer with a visibile vessel was found at the 
post-EMR site in the rectum.
This is the most likely contributing cause of hematochezia.  
4 ml of Epinephrine ___ injection was applied for 
hemostasis with success. 
Four hemoclips were successfully applied to the rectal EMR site 
for the purpose of hemostasis.

 
Brief Hospital Course:
___ with hx of head and neck ca. s/p chemo radiation, colonic 
poly s/p band endoscopic mucosal resection of (___) of 
1x1cm submucosal nodule in rectum. He then developed 12 episodes 
of BRBPR a/w urgency to defecate. He presented to ED and had 
syncopal episode where he believes he lost consciousness for "a 
minute" without headstrike or injury. Sigmoidoscopy on ___ 
showed cratered ulcer in rectum and visible vessel, treated with 
epinephrine and multiple hemoclips placed. He remained 
hemodynamically stable and h/h stable. He did not have further 
episodes of BRBPR in the hospital and did not receive any blood 
transfusion.

TRANSITIONAL ISSUES:
# GI to contact patient with colonic polyp biopsy results and 
schedule follow-up as needed
# hgb on discharge 11.3
# CODE: full, confirmed 
# CONTACT: Significant Other ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Minocycline 100 mg PO Q12H 

 
Discharge Medications:
1.  Minocycline 100 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Rectal ulceration
Syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. 

WHY YOU CAME TO THE HOSPITAL:
You came because you had bloody bowel movements after a 
colonoscopy procedure. You fainted briefly in the emergency 
department, without sustaining any injuries.

WHAT WE DID FOR YOU:
Our GI specialists performed a sigmoidoscopy and saw an ulcer 
with a visible blood vessel. This is the likely source of your 
bleed. They injected it with medication and placed clips on it 
to prevent further bleeding. We monitored your blood counts and 
they were stable.

WHAT TO DO WHEN YOU GET HOME:
follow up with your primary care doctor. The GI team will 
contact you with biopsy results from your original colonoscopy, 
and will arrange follow-up if necessary.

 
Followup Instructions:
___